US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 2-naphthoyl chloride (66 mg, 0.35 mmol). The final trituration (diethyl ether/hexane) and filtration gave 33 mg (26%) of 18-(2-naphthoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 98.5% pure (HPLC), MS m/z 721 (M−H)−, HRMS: calcd. 740.3329 and found 740.3321 (M+NH4)+, mp 156-158° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 2-naphthoyl chloride | 0.35 mmol, 66 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 18-(2-naphthoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 33 mg, 26% | C1=C(C=CC2=CC=CC=C12)C(=O)OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C37H46N4O9S
